US09303033B2
3,5-Difluoroaniline (29 mg, 0.22 mmol), Cs2CO3 (67 mg, 0.21 mmol) were added to Tert-butyl 5-chloro-3-formylpyrazolo[1,5-a]pyrimidin-7-yl(cyclopropyl)carbamate (50 mg, 0.15 mmol) dissolved in 1,4-dioxane (1 mL). Racemic BINAP (6 mg, 0.06 mmol) and palladium(II) acetate (4 mg, 0.04 mmol) were then added. The mixture was sealed and irradiated at 110° C. for 20 min in the microwave. Et2O (3 mL) was added and the solution was filtered. The filtrate was concentrated in vacuo. The crude residue was dissolved in dichloromethane (1.5 mL) and trifluoroacetic acid (1.5 mL). After 1 h, the solution was concentrated under a stream of air. The residue was triturated with 20% 2-propanol/hexanes. The product was filtered to yield 7-(cyclopropylamino)-5-(3,5-difluorophenylamino)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde (39 mg, 80%). LCMS (M+1=330)

reactant | 3,5-Difluoroaniline | 0.22 mmol, 29 mg | FC=1C=C(N)C=C(C1)F | C6H5F2N
reactant | Cs2CO3 | 0.21 mmol, 67 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | Tert-butyl 5-chloro-3-formylpyrazolo[1,5-a]pyrimidin-7-yl(cyclopropyl)carbamate | 0.15 mmol, 50 mg | ClC1=NC=2N(C(=C1)N(C(OC(C)(C)C)=O)C1CC1)N=CC2C=O | C15H17ClN4O3
reactant | BINAP | 0.06 mmol, 6 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
catalyst | palladium(II) acetate | 0.04 mmol, 4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | Et2O | 3 mL | CCOCC | C4H10O
product | 7-(cyclopropylamino)-5-(3,5-difluorophenylamino)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde | 39 mg, 80% | C1(CC1)NC1=CC(=NC=2N1N=CC2C=O)NC2=CC(=CC(=C2)F)F | C16H13F2N5O
